US07906522B2
5-Bromo-2-fluoro-4-methoxybenzaldehyde (1 g, 4.3 mmol), p-toluenesulfonic acid monohydrate (163 mg, 0.86 mmol) and trimethyl orthoformate (2.4 mL, 21 mmol) were dissolved in methanol (20 mL) and stirred under heating and reflux for 1 hour. After standing to cool the reaction mixture, triethylamine (2 mL) was added thereto and further stirred for 10 minutes. The mixture was added with saturated brine and ethyl acetate, and the organic layer was separated, followed by washing with saturated brine. The organic layer was dried over anhydrous magnesium sulfate and the solvent was evaporated under reduced pressure to obtain 5-bromo-2-fluoro-4-methoxybenzaldehyde dimethylacetal (1.19 g, 100%).

reactant | 5-Bromo-2-fluoro-4-methoxybenzaldehyde | 4.3 mmol, 1 g | BrC=1C(=CC(=C(C=O)C1)F)OC | C8H6BrFO2
reactant | p-toluenesulfonic acid monohydrate | 0.86 mmol, 163 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | trimethyl orthoformate | 21 mmol, 2.4 mL | C(OC)(OC)OC | C4H10O3
reactant | triethylamine | 2 mL | C(C)N(CC)CC | C6H15N
solvent | methanol | 20 mL | CO | CH4O
solvent | brine | [Cl-].[Na+].O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-bromo-2-fluoro-4-methoxybenzaldehyde dimethylacetal | 1.19 g, 100% | COC(C1=C(C=C(C(=C1)Br)OC)F)OC | C10H12BrFO3
